US06716851B2
4-(2-Cyano-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-cyano-5-methylaniline (38 mg, 0.290 mmol) similar to Example 117 and isolated as a yellow solid (8 mg, 12%). 1H NMR (CDCl3): 9.62-9.61 (m, 1H), 8.75-8.69 (m, 2H), 8.08 (s, 1H), 7.62 (s, 1H), 7.60 (d, J=8.1 Hz, 1H), 7.46-7.41 (m, 1H), 7.12 (dd, J=0.9, 8.1 Hz, 1H), 7.00 (s, 1H), 2.52 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-cyano-5-methylaniline | 0.290 mmol, 38 mg | C(#N)C1=C(N)C=C(C=C1)C | C8H8N2
product | 4-(2-Cyano-5-methylanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | C(#N)C1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C=C1)C | C18H12F3N5
